US09260448B2
3-Hydroxy-2-phenylacrylonitrile
Phenylacetonitrile (10 g, 85.4 mmol) and methyl formate (67 ml) were dissolved in TIIF (250 ml) in a reaction vessel, and then NaH (2.6 g, 106.7 mmol) was added thereto at 0° C. The solution was stirred at room temperature for 12 hr. After completion of the reaction, the reaction mixture was washed with distilled water and acidified with 1 N HCl to adjust the pH to 5 or less. Thereafter, the resulting solution was extracted with dichloromethane. The organic layer was dried over anhydrous Na2SO4, followed by filtration. The filtrate was concentrated under reduced pressure to give 12.3 g (84.7 mmol, quant.) of the title compound.

reactant | Phenylacetonitrile | 85.4 mmol, 10 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | methyl formate | 67 ml | C(=O)OC | C2H4O2
reactant | NaH | 106.7 mmol, 2.6 g | [H-].[Na+]
product | 3-Hydroxy-2-phenylacrylonitrile | OC=C(C#N)C1=CC=CC=C1 | C9H7NO
